US07951829B2
Step A. (E)-5-bromo-2-(2-chloro-2-phenyl-vinyl)-1H-benzimidazole
A mixture of 4-bromo-benzene-1,2-diamine dihydrochloride (1.3 g, 5 mmol), phenylpropiolic acid (0.73 g, 5 mmol) in 4 mL of ethylene glycol was heated to reflux for 5 h. The mixture was cooled to rt and poured into water. The mixture was neutralized with 2N sodium hydroxide and filtered. The solid was suspended in water and extracted with ethyl acetate. The organic layers were combined, dried with anhydrous sodium sulfate, and filtered. The filtrate was concentrated to yield a red oil. The residue was purified using preative TLC plates twice (silica gel, 20×20 cm, 2000 microns, EtOAc:hexanes 3:7 and silica gel, 20×20 cm, 2000 microns, EtOAc:dichloromethane 3:97) to provide a mixture of cis and trans isomers of the title Compound 30a (0.345 g). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 12.59 (m, 1H), 7.86-7.78 (m, 3H), 7.64-7.56 (m, 1H), 7.54-7.49 (m, 3H), 7.46 (s, 1H), 7.40-7.34 (m, 1H). Mass Spectrum (LCMS, APCl pos.) Calcd. For C15H10BrClN2:333.0 (M+H), Found 333.1.

reactant | 4-bromo-benzene-1,2-diamine dihydrochloride | 5 mmol, 1.3 g | Cl.Cl.BrC=1C=C(C(=CC1)N)N
reactant | phenylpropiolic acid | 5 mmol, 0.73 g | C1(=CC=CC=C1)C#CC(=O)O | C9H6O2
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethylene glycol | 4 mL | C(CO)O | C2H6O2
product | (E)-5-bromo-2-(2-chloro-2-phenyl-vinyl)-1H-benzimidazole | BrC1=CC2=C(NC(=N2)\C=C(/C2=CC=CC=C2)\Cl)C=C1 | C15H10BrClN2
